US06117881
1-(3,4-Methylenedioxyphenyl)-2,3,4,9-tetrahydro-1H-β-carboline
This product was prepared using the same procedure as for intermediate 1 with tryptamine (20.0 g, 120 mmol), 3,4-methylenedioxybenzaldehyde (20.6 g, 1.1 equiv.) and TFA (18 mL, 2 equiv.) to give the title compound (22 g, 60%) as white crystals after recrystallization from ethanol.

reactant | tryptamine | 120 mmol, 20.0 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | 3,4-methylenedioxybenzaldehyde | 20.6 g, 1.1 equiv. | C1OC=2C=C(C=O)C=CC2O1 | C8H6O3
reactant | TFA | 18 mL, 2 equiv. | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(3,4-Methylenedioxyphenyl)-2,3,4,9-tetrahydro-1H-β-carboline | 22 g, 60% | C1OC=2C=C(C=CC2O1)C1NCCC=2C3=CC=CC=C3NC12 | C18H16N2O2
